US04966905
5-[2-(3,4-Dichlorophenyl)ethenyl]-2,2-dimethyl-3(2H)-furanone
To a solution of 3,4-dichlorobenzaldehyde (2.3 g, 13.2 mM) and 2,2,5-trimethyl-3(2H)-furanone (2.0 g, 15.9 mM) in ethanol (100 mL), was added 1N aqueous sodium hydroxide (1.6 mL, 1.6 mM). The reaction solution was heated at 60° C. for 4 hours. After the reaction solution cooled, saturated aqueous sodium chloride (400 mL) was added. The aqueous layer was extracted with diethyl ether (3×100 mL). The combined ethereal extracts were washed with saturated aqueous sodium chloride (50 mL), dried over MgSO4, filtered and concentrated to give a yellow solid. The crude product was purified by chromatography (silica gel, pet. ether/ethyl acetate) to afford a light yellow solid (2.1 g, 56% yield), m.p. 100°-102° C.

reactant | 3,4-dichlorobenzaldehyde | 13.2 mM, 2.3 g | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
reactant | 2,2,5-trimethyl-3(2H)-furanone | 15.9 mM, 2.0 g | CC1(OC(=CC1=O)C)C | C7H10O2
reactant | sodium hydroxide | 1N, 1.6 mL | [OH-].[Na+]
reactant | sodium chloride | 400 mL | [Cl-].[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 5-[2-(3,4-Dichlorophenyl)ethenyl]-2,2-dimethyl-3(2H)-furanone | 2.1 g, 56% yield | ClC=1C=C(C=CC1Cl)C=CC1=CC(C(O1)(C)C)=O | C14H12Cl2O2
